US07144894B2
5-Formyl-1,2,3,4-tetrahydroquinol-2-one.
Following the procedure reported above for 2-ethyl-5-formyl-2H-1,2,3,4-tetrahydroisoquinolone described above, 6-bromo-1,2,3,4-tetrahydroquinol-2-one (1.07 g, 4.73 mmol), a solution oft-butyllithium in heptane (1.7M, 9.7 mL, 16.6 mmol), DMF (0.37 mL, 4.73 mmol) and THF 35 mL) were combined. The reaction mixture was stirred at −78° C. for 4 h and HOAc (1 mL) was added. The previously described workup provided crude product. Column chromatography (EtOAc:hexane::1:1, then DCM:MeOH::97:3) and removal of solvent in vacuo provided a white solid (116 mg, 14% yield): 1H NMR: 9.90 (s, 1H), 8.0 (s, 1H), 7.77–7.74 (m, 2H), 6.89 (d, 1H, J=8), 3.07 (t, 2H, J=7), 2.71 (t, 2H, J=7).

reactant | 6-bromo-1,2,3,4-tetrahydroquinol-2-one | 4.73 mmol, 1.07 g | BrC=1C=C2CCC(NC2=CC1)=O | C9H8BrNO
reactant | butyllithium | C(CCC)[Li]
reactant | heptane | 16.6 mmol, 1.7M, 9.7 mL | CCCCCCC | C7H16
reactant | DMF | 4.73 mmol, 0.37 mL | CN(C)C=O | C3H7NO
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 5-Formyl-1,2,3,4-tetrahydroquinol-2-one | 116 mg, 14% yield | C(=O)C1=C2CCC(NC2=CC=C1)=O | C10H9NO2
